US06894061B2
3-Fluoro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
N-[1-(2′,4′-Difluoro-1,1′-biphenyl-2-yl)ethyl]4-methoxybenzenesulfonamide (347 mg, 0.86 mmol) was dissolved in anhydrous N,N-dimethylformamide (2 mL) and potassium carbonate (238 mg, 1.72 mmol) was added as a solid in one portion. The mixture was heated at 100° C. with stirring until a single product had formed as gauged by LCMS (5-6 hours). Water (10 mL) was added and a white solid precipitated from the cloudy solution. The mixture was allowed to stand until the solution was clear, and the precipitated solid was filtered and washed with additional water to afford the desired compound (324 mg, 98%) as a white solid, m.p. 137.5-139° C.;

reactant | N-[1-(2′,4′-Difluoro-1,1′-biphenyl-2-yl)ethyl]4-methoxybenzenesulfonamide | 0.86 mmol, 347 mg | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=CC=C(C=C1)OC | C21H19F2NO3S
reactant | potassium carbonate | 1.72 mmol, 238 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-Fluoro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 324 mg, 98% | FC=1C=CC=2C3=CC=CC=C3C(N(C2C1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C21H18FNO3S
